US06713474B2
4-Chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (5.0 g) was added to a mixture of sodium hydride (0.79 g of a 60% dispersion in mineral oil) in dimethylformamide (100 ml) with stirring under nitrogen at 0° C. The mixture was stirred until hydrogen evolution ceased. 3-Tosyloxytetrahydrofuran (4.65 g) was added at 0° C. and then the mixture was warmed to 90° C. The mixture was stirred at this temperature for 2 hours and then overnight at ambient temperature. Water (100 ml) was added cautiously and the mixture was extracted with ethyl acetate to give 4-chloro-5-iodo-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidine, m.p. 184-186° C.

reactant | 4-Chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 5.0 g | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-Tosyloxytetrahydrofuran | 4.65 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1COCC1 | C11H14O4S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | Water | 100 ml | O | H2O
product | 4-chloro-5-iodo-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)C2COCC2 | C10H9ClIN3O
